US03979390
A mixture of γ-[4-(p-chlorophenyl)-4-hydroxypiperidin-1-yl]-2,4-difluorobutyrophenone hydrochloride (2.0 g), 40 % aqueous solution of dimethylamine (10.0 g) and dimethylsulfoxide (30 ml) was stirred at room temperature for 1 hour. The reaction mixture was poured into cold water (200 ml). The precipitate was filtered and recrystallized from aqueous ethanol to yield γ-[4-(p-chlorophenyl)-4-hydroxypiperidin-1-yl]-4-dimethylamino-2-fluorobutyrophenone. M.P. 160° to 163°C.

reactant | γ-[4-(p-chlorophenyl)-4-hydroxypiperidin-1-yl]-2,4-difluorobutyrophenone hydrochloride | 2.0 g | Cl.ClC1=CC=C(C=C1)C1(CCN(CC1)C(CC(C(=O)C1=CC=CC=C1)F)F)O
reactant | dimethylamine | 10.0 g | CNC | C2H7N
reactant | dimethylsulfoxide | 30 ml | CS(=O)C | C2H6OS
solvent | water | 200 ml | O | H2O
product | γ-[4-(p-chlorophenyl)-4-hydroxypiperidin-1-yl]-4-dimethylamino-2-fluorobutyrophenone | ClC1=CC=C(C=C1)C1(CCN(CC1)C(CC(C(=O)C1=CC=CC=C1)F)N(C)C)O | C23H28ClFN2O2
